US07897762B2
A mixture of ethyl 2-(4-fluoro-2-methyl-5-nitrophenyl)-2-oxoacetate (15 g, 59 mmol) and Fe (46 g, 828 mmol) in AcOH (200 mL) was stirred at RT overnight. The solid was removed by filtration, and the solvent was removed under reduced pressure. The residue was partitioned with water and EtOAc. The organic layer was washed with brine, dried (MgSO4), and concentrated in vacuo to give ethyl 2-(5-amino-4-fluoro-2-methylphenyl)-2-oxoacetate (9.0 g, 70% yield), which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): δ 7.16 (d, J=6.9 Hz, 1 H), 6.91 (d, J=8.7 Hz, 1 H), 4.41 (q, J=7.2 Hz, 2 H), 2.50 (s, 3 H), 1.40 (t, J=7.2 Hz, 3 H).

reactant | ethyl 2-(4-fluoro-2-methyl-5-nitrophenyl)-2-oxoacetate | 59 mmol, 15 g | FC1=CC(=C(C=C1[N+](=O)[O-])C(C(=O)OCC)=O)C | C11H10FNO5
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
catalyst | Fe | 828 mmol, 46 g | [Fe] | Fe
product | ethyl 2-(5-amino-4-fluoro-2-methylphenyl)-2-oxoacetate | 9.0 g, 70% yield | NC=1C(=CC(=C(C1)C(C(=O)OCC)=O)C)F | C11H12FNO3
